US04931581
Preparation of 2-benzylthio-3-nitrobenzoic acid (intermediate)
6.85 g (0.055 mol) of benzyl mercaptan are dissolved in 150 ml of dimethylformamide. The batch is then cooled to 0° C. and 15.2 g (0.11 mol) of potassium carbonate are added. 10.6 g (0.050 mol) of 2,3-dinitrobenzoic acid are then added in portions at from 0° to 5° C. and the internal temperature is afterwards raised to room temperature over a period of 24 hours. The reaction mixture is then poured onto ice/water and acidified with hydrochloric acid. The resulting product is filtered, washed with water and dried. Yield: 11.8 g (82% of the theoretical yield); m.p. 152°-153° C.

reactant | benzyl mercaptan | 0.055 mol, 6.85 g | C(C1=CC=CC=C1)S | C7H8S
reactant | potassium carbonate | 0.11 mol, 15.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3-dinitrobenzoic acid | 0.050 mol, 10.6 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C7H4N2O6
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 2-benzylthio-3-nitrobenzoic acid | C(C1=CC=CC=C1)SC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C14H11NO4S
